US09359375B2
To a solution of (R)-benzyl 1-(1-(6-chloro-5-cyano-3-fluoropyridin-2-ylamino)propyl)cyclopropylcarbamate (100 mg, 0.25 mmol) in dioxane (1.5 mL) was added p-toluidine (32 mg, 0.30 mmol), BINAP (31 mg, 0.05 mmol), Pd(OAc)2 (11.2 mg, 0.05 mmol) and Cs2CO3 (244.5 mg, 0.75 mmol). After degassed with Argon, the mixture was heated at 80° C. for 5 h. The mixture was diluted with dioxane, precipitate was filtered off, filter cake was washed with ACN, the filtrate was concentrated and purified by column to give of (R)-benzyl 1-(1-(5-cyano-3-fluoro-6-(p-tolylamino)pyridin-2-ylamino)propyl)cyclopropylcarbamate (80 mg).

reactant | (R)-benzyl 1-(1-(6-chloro-5-cyano-3-fluoropyridin-2-ylamino)propyl)cyclopropylcarbamate | 0.25 mmol, 100 mg | ClC1=C(C=C(C(=N1)N[C@H](CC)C1(CC1)NC(OCC1=CC=CC=C1)=O)F)C#N | C20H20ClFN4O2
reactant | p-toluidine | 0.30 mmol, 32 mg | NC1=CC=C(C=C1)C | C7H9N
reactant | BINAP | 0.05 mmol, 31 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 0.75 mmol, 244.5 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.05 mmol, 11.2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-benzyl 1-(1-(5-cyano-3-fluoro-6-(p-tolylamino)pyridin-2-ylamino)propyl)cyclopropylcarbamate | 80 mg | C(#N)C=1C=C(C(=NC1NC1=CC=C(C=C1)C)N[C@H](CC)C1(CC1)NC(OCC1=CC=CC=C1)=O)F | C27H28FN5O2
